US05480873
3) 8Fluoro-1-hydroxy-5-methoxy-naphthalene
8-Fluoro-5-methoxy-l-tetralone (20 g) was dissolved in isopropenyl acetate (70 ml), p-toluenesulphonic acid (1 g) was added and the mixture was heated under reflux under nitrogen for 5 days. The reaction mixture was poured into aqueous sodium hydrogen carbonate solution (250 ml) and the crude product extracted into ethyl acetate (3×100 ml). The combined organic extracts were dried over magnesium sulphate, filtered and the solvent removed under reduced pressure. The resulting dark oil was taken up into dioxan (200 ml) and dichlorodicyanobenzoquinone (DDQ) (25 g) was added. The solution was heated under reflux for 18 hours and filtered to remove DDQ residues. The solvent was removed under reduced pressure and the crude product purified by chromatography on silica (eluent hexane/ethyl acetate 3:1). The resulting red oil was dissolved in methanol (100 ml) and heated under reflux with sodium hydroxide (9 g) for 1 hour. Water (100 ml) was added and the mixture was washed with ether/hexane 1:1 (200 ml). The aqueous phase was acidified and the product collected by filtration to give a dark solid after drying.

reactant | 8-Fluoro-5-methoxy-l-tetralone | 20 g | FC=1C=CC(=C2CCCC(C12)=O)OC | C11H11FO2
reactant | p-toluenesulphonic acid | 1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium hydrogen carbonate | 250 ml | C(O)([O-])=O.[Na+]
solvent | isopropenyl acetate | 70 ml | C(C)(=O)OC(=C)C | C5H8O2
product | 8Fluoro-1-hydroxy-5-methoxy-naphthalene | FC=1C=CC(=C2C=CC=C(C12)O)OC | C11H9FO2
